US09169191B2
Preparation of Erythritol 2,3-Dibehenate
340 g (1 mol) behenic acid and 61 g (0.5 mol) erythritol were added into a 2 L three-neck flask which was equipped with a stirrer, a condenser and an addition funnel. To the flask was added 1 L xylene as a water carrier, followed by addition of a reaction catalyst sulfuric acid (32 g, 8 wt %). The mixture was refluxed at 145±2° C. for 22 hours. When the reaction was ended, the reaction system was allowed to cool to room temperature and stand for 2 hours. The solid was removed by filtration, and the liquid phase was washed with a saturated sodium bicarbonate aqueous solution and petroleum ether in sequence. 260 g solid product was obtained after drying by rotary evaporation. The product was erythritol 2,3-dibehenate as characterized by 1H NMR, and the purity was 91% as characterized by HPLC.

reactant | behenic acid | 1 mol, 340 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | erythritol | 0.5 mol, 61 g | C([C@H](O)[C@H](O)CO)O | C4H10O4
reactant | xylene | 1 L | C=1(C(=CC=CC1)C)C | C8H10
reactant | sulfuric acid | 32 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Erythritol 2,3-Dibehenate | 260 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O[C@@H](CO)[C@H](OC(CCCCCCCCCCCCCCCCCCCCC)=O)CO | C48H94O6
